US09227970B2
d) 5-[2-(3-Methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid
Using 5-[2-(3-Methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester, this compound was prepared following the same method as for the synthesis of 1-Methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid. Off white solid (690 mg, 82%). MS: m/z=386 (M+H+).

reactant | 5-[2-(3-Methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1C(NC=1C=CC=2N(C1)N=C(N2)N2CC(CC2)OC)=O)C | C19H23N7O4
reactant | 1-Methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
product | 5-[2-(3-Methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid | COC1CN(CC1)C1=NN2C(C=CC(=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C17H19N7O4
